US05616774
2,6-Di-tert-amyl-4-benzylidene-cyclohexa-2,5-dienone
6.0 g (0.026 Mol) of 2,6-di-tert-amylphenol, 2.75 g (0.026 mol) of benzaldehyde and 4.37 g (0.05 1 mol) of piperidine are refluxed under nitrogen in 50 ml of heptane on a Dean-Stark trap for 24 hours. The solution is then evaporated in vacuo and the residue chromatographed twice on silica gel with hexane and then with hexane:ethyl acetate (9:1 ) to give 3.5 g of the title compound as a thick yellow oil.

reactant | 2,6-di-tert-amylphenol | 0.026 Mol, 6.0 g | C(C)(C)(CC)C1=C(C(=CC=C1)C(C)(C)CC)O | C16H26O
reactant | benzaldehyde | 0.026 mol, 2.75 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 1 mol, 4.37 g | N1CCCCC1 | C5H11N
solvent | heptane | 50 ml | CCCCCCC | C7H16
product | 2,6-Di-tert-amyl-4-benzylidene-cyclohexa-2,5-dienone | 3.5 g | C(C)(C)(CC)C=1C(C(=CC(C1)=CC1=CC=CC=C1)C(C)(C)CC)=O | C23H30O
